US05389293
Into a four-necked flask provided with a stirring means and a thermometer, 150 g (1 mol) of (+)-3-phenyl-l-butanol (XXVI-60), 500 ml of toluene and 200 ml of pyridine were charged, and 122.4 g (1.2 mol) of acetic acid anhydride and 1 g of 4-dimethylaminopyridine were further added thereto. The mixture was reacted for 4 hours while temperature being maintained at 40°-50° C. After completion of the reaction, the reaction mixture was poured into 500 ml of 4N hydrochloric acid, extracted and fractionated. The resulting organic layer was washed with 1N hydrochloric acid, water, 5% sodium bicarbonate aqueous solution ad water in the order. The thus-obtained organic layer was concentrated under a reduced pressure to obtain 190 g of (+)-1-acetoxy-3-phenylbutane (XXV-60) with yield of 99.0%.

reactant | (+)-3-phenyl-l-butanol | 1 mol, 150 g | C1(=CC=CC=C1)C(CCO)C | C10H14O
reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
reactant | acetic acid anhydride | 1.2 mol, 122.4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 4N, 500 ml | Cl | ClH
catalyst | 4-dimethylaminopyridine | 1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | (+)-1-acetoxy-3-phenylbutane | 190 g, yield of 99.0% | C(C)(=O)OCCC(C)C1=CC=CC=C1 | C12H16O2
